US05231179
To an aqueous solution (35 ml) of 1-amino-1-carboxycyclopentane (1.29 g; 10 mmol) and sodium bicarbonate (1.85 g; 22 mmol), a solution of ethyl chloroformate (1.30 g; 12 mmol) in diethyl ether (10 ml) was added at room temperature and followed by stirring for 6 hours. The organic layer was separated from the aqueous layer and extracted with a saturated aqueous solution of sodium bicarbonate. The combined aqueous layers were acidified with conc. hydrochloric acid and extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure to give 1-ethoxycarbonylamino-1-carboxycyclopentane as a colorless solid.

reactant | 1-amino-1-carboxycyclopentane | 10 mmol, 35 ml, 1.29 g | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | sodium bicarbonate | 22 mmol, 1.85 g | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 12 mmol, 1.30 g | ClC(=O)OCC | C3H5ClO2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-ethoxycarbonylamino-1-carboxycyclopentane | C(C)OC(=O)NC1(CCCC1)C(=O)O | C9H15NO4
